US07745438B2
3-tert-butyl-2,2-dichlorocyclobutanone
Suspend 3,3-dimethyl-1-butene (10 mL, 80.8 mmol), ethylene glycol dimethyl ether (11.5 mL, 106 mmol), and freshly activated zinc (13.8 g, 211 mmol) in dry diethyl ether (100 mL) under a nitrogen atmosphere. Add to this suspension a solution of trichloroacetyl chloride (11.5 mL, 103 mmol) in dry diethyl ether (50 mL) dropwise over 20 minutes. Heat to reflux for 24 hours. Cool to room temperature and filter off the residual solid materials. Concentrate the filtrate and triturate the residue with hexanes. Filter the mixture to remove solid materials. Wash the filtrate solution with saturated aqueous sodium bicarbonate solution (3×), saturated aqueous sodium chloride solution, dry (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 0:100 to 10:90 ethyl acetate:hexanes) to give the pure fractions and concentrate. Isolate the desired compound by vacuum distillation to give a clear liquid (7.59 g, 48%).

reactant | 3,3-dimethyl-1-butene | 80.8 mmol, 10 mL | CC(C=C)(C)C | C6H12
reactant | ethylene glycol dimethyl ether | 106 mmol, 11.5 mL | COCCOC | C4H10O2
reactant | trichloroacetyl chloride | 103 mmol, 11.5 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
catalyst | zinc | 211 mmol, 13.8 g | [Zn] | Zn
product | 3-tert-butyl-2,2-dichlorocyclobutanone | C(C)(C)(C)C1C(C(C1)=O)(Cl)Cl | C8H12Cl2O
